US06696473B2
3-[3-Benzyl-5-(1,3-dimethyl-1,3-dihydrobenzoimidazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-(ethylamino)benzonitrile
To a solution of the above salt (66 mg, 0.2 mmol) and 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzonitrile (70 mg, 0.2 mmol) in DMF was added DBU (62 mL, 2 equiv) and the solution was heated to 100° C. for 48 h. Evaporation of solvent under high vacuum gave a crude, which was purified by chromatography on silica gel eluting with EtOAc-hexane (1:1) to give the title compound (3.6 mg). 1H-NMR indicated one isomer. 1H-NMR (CDCl3): δ 7.46 (2H, m), 7.22-7.36 (8H, m), 6.46 (1H,d), 5.17 (2H, s), 4.44 (1H, t), 3.79 (3H, s), 3.01 (2 H, m), 0.88 (3 H, t); MS (ESI): 495 (MH+).

reactant | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzonitrile | 0.2 mmol, 70 mg | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
reactant | DBU | 62 mL, 2 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMF | CN(C)C=O | C3H7NO
product | 3-[3-Benzyl-5-(1,3-dimethyl-1,3-dihydrobenzoimidazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-(ethylamino)benzonitrile | 3.6 mg | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1N(C2=C(N1C)C=CC=C2)C)=NC=2C=C(C#N)C=CC2NCC | C28H26N6OS
